US04261999
A solution of 3-isothiocyanatopyridine (1.36 g) in absolute ethanol (40 cc) is added dropwise, at a temperature of about 0° C., to a solution of (RS)-5-hydroxymethyl-4,5,6,7-tetrahydrothieno[2,3-c]pyridine (1.69 g) in absolute ethanol (60 cc). The resulting solution is stirred for 20 hours at a temperature of about 20° C. and the solid formed is then filtered off. The filtrate is evaporated to dryness under reduced pressure (25 mm Hg; 3.3 kPa) at 40° C. and a white solid is obtained which is combined with the solid isolated by filtration. These solids are dissolved in a mixture, heated under reflux, of isopropanol and diisopropyl ether (1:2 by volume; 150 cc) and the solution, after cooling, is kept at +5° C. for 20 hours. The resulting crystals are filtered off, washed with diisopropyl ether (50 cc) and dried at 20° C. under reduced pressure (0.1 mm Hg; 0.013 kPa). (RS)-5-Hydroxymethyl-6-[(pyrid-3-yl)thiocarbamoyl]-4,5,6,7-tetrahydrothieno[2,3-c]pyridine (2.3 g) is thus obtained in the form of white crystals melting at 165° C.

reactant | 3-isothiocyanatopyridine | 1.36 g | N(=C=S)C=1C=NC=CC1 | C6H4N2S
reactant | (RS)-5-hydroxymethyl-4,5,6,7-tetrahydrothieno[2,3-c]pyridine | 1.69 g | OCC1CC2=C(CN1)SC=C2 | C8H11NOS
reactant | isopropanol | C(C)(C)O | C3H8O
reactant | diisopropyl ether | 150 cc | C(C)(C)OC(C)C | C6H14O
solvent | ethanol | 40 cc | C(C)O | C2H6O
solvent | ethanol | 60 cc | C(C)O | C2H6O
product | (RS)-5-Hydroxymethyl-6-[(pyrid-3-yl)thiocarbamoyl]-4,5,6,7-tetrahydrothieno[2,3-c]pyridine | 2.3 g | OCC1CC2=C(CN1C(NC=1C=NC=CC1)=S)SC=C2 | C14H15N3OS2
